US08017630B2
2-(4-Dimethylamino-4-pyridin-2-ylcyclohexylidene)-N-[2-(1H-indol-3-yl)ethyl]acetamide
1-Hydroxybenzotriazole (546 mg, 4.0 mmol), tryptamine (320 mg, 2.0 mmol) and N-methylmorpholine (0.444 ml, 4.0 mmol) were added to a solution of (4-dimethylamino-1-hydroxy-4-pyridin-2-yl-cyclohexyl)acetic acid (556 mg, 2.0 mmol) in abs. dimethylformamide (30 ml) under argon. The solution was cooled to 0° C., dicyclohexylcarbodiimide (825 mg, 4.0 mmol) was added and the mixture was stirred at RT for 7 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. The aqueous phase was diluted with water (400 ml), 5 M sodium hydroxide solution (7 ml, 35 mmol) was added and the mixture was stored at 5° C. for 16 h. The crude product thereby precipitated out as a beige-coloured solid (313 mg, 37%). After chromatography on silica gel (45 g) with EA/methanol (4:1), the product was obtained as a beige-coloured solid in a yield of 25% (210 mg).

reactant | 1-Hydroxybenzotriazole | 4.0 mmol, 546 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | tryptamine | 2.0 mmol, 320 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | N-methylmorpholine | 4.0 mmol, 0.444 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-1-hydroxy-4-pyridin-2-yl-cyclohexyl)acetic acid | 2.0 mmol, 556 mg | CN(C1(CCC(CC1)(O)CC(=O)O)C1=NC=CC=C1)C | C15H22N2O3
reactant | dicyclohexylcarbodiimide | 4.0 mmol, 825 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 35 mmol, 5 M, 7 ml | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(4-Dimethylamino-4-pyridin-2-ylcyclohexylidene)-N-[2-(1H-indol-3-yl)ethyl]acetamide | yield of 25% | CN(C1(CCC(CC1)=CC(=O)NCCC1=CNC2=CC=CC=C12)C1=NC=CC=C1)C | C25H30N4O
